US08044078B2
a.) Ethyl[(1,3-benzoxazol-2-yl)oxy]acetate
0.14 g (1.3 mmol) ethyl-hydroxyacetate is dissolved in 5 ml tetrahydrofurane and 0.06 g (1.6 mmol) 60% sodium hydride is added to it. After 20 minute stirring 0.16 g (1.1 mmol) 2-chloro-1,3-benzoxazole is added and the mixture is heated under reflux for 3 hours. The solvent is removed, the residue is dissolved in 15 ml water, extracted with 3×20 ml ethyl acetate. The united organic phase is dried over sodium sulfate and evaporated to obtain 0.21 g title compound as an oil. LC-MS[MH+]=222 (C11H11NO4 221.21)

reactant | ethyl-hydroxyacetate | 1.3 mmol, 0.14 g | C(C)OC(CO)=O | C4H8O3
reactant | sodium hydride | 1.6 mmol, 0.06 g | [H-].[Na+]
reactant | 2-chloro-1,3-benzoxazole | 1.1 mmol, 0.16 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | Ethyl[(1,3-benzoxazol-2-yl)oxy]acetate | 0.21 g | C(C)OC(COC=1OC2=C(N1)C=CC=C2)=O | C11H11NO4
